US04423213
To a solution of 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (2.0 g) in N,N-dimethylformamide (15 ml) were added triethylamine (0.55 g), 3-bromophthalate (1.2 g) and sodium iodide (0.82 g) in turn in a stream of nitrogen, and the mixture was stirred at ambient temperature for half an hour. After the reaction mixture was poured into a mixture of ethyl acetate (300 ml) and water (200 ml), the organic layer was separated out, washed with water and a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate, followed by treating with charcoal. After the filtrate was concentrated and thereto was added diethyl ether. The precipitated substance was collected by filtration to obtain phthalid-3-yl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (1.5 g).

reactant | 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.0 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C14H14N4O4S2
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromophthalate | 1.2 g | BrC1=C(C(C(=O)[O-])=CC=C1)C(=O)[O-]
reactant | sodium iodide | 0.82 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | phthalid-3-yl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 1.5 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC2OC(=O)C3=CC=CC=C23)C1=O | C22H18N4O6S2
